Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
ANAL CANCER
 
Major Surgical or Invasive Procedure:
ABDOMINO-PERINEAL RESECTION ROBOTIC LAPAROSCOPIC, STENT 
PLACEMENT 

 
History of Present Illness:
Mr. ___ is a ___ man who presents
today with his wife and as a ___ interpreter.  He
unfortunately is scattered regarding his oncologic history. 
However, it seems that he had concurrently diagnosed prostate 
and
urothelial squamous cell cancer in ___.  He underwent
prostatectomy at ___ and radiation therapy combined
with one dose of chemotherapy with one month of radiation, 
though
it seems on his history, his chemotherapy actually came before
the radiation.  His radiation was performed at ___ ___.  At ___, he received his
chemotherapy.  He states he has done well since that time.  He
has anastomosis of his urethra into his perineum, which he has
control over.

He states he does not follow up for these issues further.  In
about ___, he noted a tender anal mass, which was itchy and
a lump and a little protuberant.  He underwent evaluation, which
was done by anoscopy at ___ and showed
an invasive squamous cell cancer, moderately differentiated,
extending to peripheral specimen edge with the tumor size being
1.1 cm or pT1.

 
Past Medical History:
Otherwise, healthy.
 
Physical Exam:
gen: NAD
cv: rrr
pulm: nonlabored breathing on room air
abd: colostomy bag in place; stoma is dark in color when 
examining the mucosa. Unable to transilluminate the most 
superficial portion, but with a test tube, able to see pink 
tissue deeper.

 
Pertinent Results:
___ 06:42AM BLOOD WBC-8.8 RBC-3.76* Hgb-11.5* Hct-35.1* 
MCV-93 MCH-30.6 MCHC-32.8 RDW-12.5 RDWSD-43.3 Plt ___
___ 06:30AM BLOOD WBC-9.7 RBC-3.75* Hgb-11.3* Hct-35.2* 
MCV-94 MCH-30.1 MCHC-32.1 RDW-12.5 RDWSD-43.6 Plt ___
___ 06:03AM BLOOD WBC-9.9 RBC-3.71* Hgb-11.6* Hct-34.9* 
MCV-94 MCH-31.3 MCHC-33.2 RDW-13.0 RDWSD-44.7 Plt ___
___ 06:42AM BLOOD Glucose-93 UreaN-9 Creat-0.8 Na-144 K-4.2 
Cl-104 HCO3-26 AnGap-14
___ 06:30AM BLOOD Glucose-96 UreaN-8 Creat-0.8 Na-143 K-4.1 
Cl-104 HCO3-28 AnGap-11
___ 06:03AM BLOOD Glucose-93 UreaN-11 Creat-0.8 Na-142 
K-4.1 Cl-105 HCO3-27 AnGap-10
___ 06:42AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.0
___ 06:30AM BLOOD Calcium-8.4 Phos-3.1 Mg-2.0
___ 06:03AM BLOOD Calcium-8.3* Phos-2.8 Mg-2.0
___ 09:08PM BLOOD HBsAg-NEG
___ 09:08PM BLOOD HIV Ab-NEG
___ 09:08PM BLOOD HCV Ab-NEG
 
Brief Hospital Course:
Patient underwent ABDOMINO-PERINEAL RESECTION ROBOTIC 
LAPAROSCOPIC, STENT PLACEMENT. Please see operative note for 
details. On ___, foley was removed and he voided, and was on 
clears which he tolerated. On ___, he was ambulating, 
tolerating crackers. On ___, he was tolerating a regular diet. 
The mucosa of his stoma appeared necrotic and was not able to be 
transilluminated, but by inserting a test tube into the stoma 
and shining a light, pink healthy tissue was appreciated just 
deep to the mucosa. JP drain was removed. His vitals were 
stable, ambulating, tolerating diet, voiding, and he was stable 
for discharge home. Appropriate follow up appointments and 
instructions were given.
 
Medications on Admission:
oxycodone prn, Zofran prn
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 1 syringe sc once a day Disp #*30 
Syringe Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
ANAL CANCER

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
LOVENOX
You will be discharged home on Lovenox injections to prevent 
blood clots after surgery. You will take this for 30 days after 
your surgery date, please finish the entire prescription. This 
will be given once daily. Please follow all nursing teaching 
instruction given by the nursing staff. Please monitor for any 
signs of bleeding: fast heart rate, bloody bowel movements, 
abdominal pain, bruising, feeling faint or weak. If you have any 
of these symptoms please call our office for advice or seek 
medical attention if there is an emergency. Avoid any contact 
activity while taking Lovenox. Please take extra caution to 
avoid falling.

--

You have a new colostomy. It is important to monitor the output 
from this stoma. It is expected that the stool from this ostomy 
will be solid and formed like regular stool. You should have ___ 
bowel movements daily. If you notice that you have not had any 
stool from your stoma in ___ days, please call the office. You 
may take an over the counter stool softener such as Colace if 
you find that you are becoming constipated. Please watch the 
appearance of the stoma (intestine that protrudes outside of 
your abdomen), it should be beefy red/pink, if you notice that 
the stoma is turning darker blue or purple, or dark red please 
call the office for advice. The stoma may ooze small amounts of 
blood at times when touched but this will improve over time. The 
skin around the ostomy site should be kept clean and intact. 
Monitor the skin around the stoma for any bulging or signs of 
infection listed above. Please care for the ostomy as you have 
been instructed by the ostomy nurses. ___ the skin around 
the stoma for any bulging or signs of infection listed above. 
You will be able to make an appointment with the ostomy nurse in 
the clinic ___ weeks after surgery. Please call the ostomy 
nurses clinic number which is listed in the ileostomy/colostomy 
handout packet given to you by the nursing staff. You will also 
have a visiting nurse at home for the next few weeks to help 
monitor your ostomy until you are comfortable caring for it on 
your own.
 
Followup Instructions:
___